data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][Cl:21].CC(C(C)C(=O)C1=CC(=C(C=C1)OC)OC)C(=[O:10])C2=CC(=C(C=C2)OC)OC.CO.O>>[H:20][O+:10]=C(C1=CC(=C(C=C1)OC)OC)C(C)C(C)C(=O)C2=CC(=C(C=C2)OC)OC.[Cl-:21].CO.O 10=20;20,21=21
CCOC(=O)C(C[C:20](=[O:21])C)C(=O)C.C[NH2:10].O>>CCOC(=O)C(C[C:20](C)([NH2+:10]C)[O-:21])C(=O)C.O 10=20;20,21=21
CO[CH:20]([O:10]C)[SH+:21]C>>CO[CH:20]=[O+:10]C.C[SH:21] 10=20;20,21=21
CC1=C(C[C:20]([O:10]1)(C2=CC=CC=C2)[OH2+:21])C(=O)OCC3=CC=CC=C3.C(F)(F)(F)S(=O)(=O)[O-]>>CC1=C(C[C:20](=[O+:10]1)C2=CC=CC=C2)C(=O)OCC3=CC=CC=C3.[OH2:21].C(F)(F)(F)S(=O)(=O)[O-] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCNC(C)(O)[O:10]CC>>[H:20][O+:10](CC)C(C)(NCC)O.OS(=O)(=O)[O-:21] 10=20;20,21=21
C[OH:10].C1=CSC(=C1[C:20](=[OH+:21])O)Br.OS(=O)(=O)[O-]>>C[OH+:10][C:20](C1=C(SC=C1)Br)(O)[OH:21].OS(=O)(=O)[O-] 10=20;20,21=21
[CH2:10]=[CH:11]CCC1(C2=C(C=CC=C2)[NH+:21]=[C:20]1C3=C(C=CC=C3)Br)O.C(=O)[O-]>>C1CC2(C3=C(C=CC=C3)[NH:21][C:20]2([CH2:10][CH+:11]1)C4=C(C=CC=C4)Br)O.C(=O)[O-] 10,11=10,20;20,21=21
[H:20][C:21]1(CCC([C+:22]1C)(C)C)C.CC[OH:10]>>[H:20][OH+:10]CC.C[C:21]1=[C:22](C(CC1)(C)C)C 10=20;20,21=21,22
[H:20][O:21]C(=O)C(F)(F)F.CCCC(CC(=[O:10])OC(C)(C)C)CO>>[H:20][O+:10]=C(CC(CCC)CO)OC(C)(C)C.C(=O)(C(F)(F)F)[O-:21] 10=20;20,21=21
[BH3-]C#N.C[N:10]1CCC(C2[CH:20]1[Br+:21]2)(CCCC3=CC=CC=C3)C4=C(C=CC(=C4)OC)OC.[Na+]>>[BH3-]C#N.C[N+:10]1=[CH:20]C(C(CC1)(CCCC2=CC=CC=C2)C3=C(C=CC(=C3)OC)OC)[Br:21].[Na+] 10=20;20,21=21
[H:20][O:21]C(=O)C.C1=CC=[N+](C(=C1)CS[O-:10])C2=NC3=C(N2)C=CC=C3>>[H:20][O:10]SCC1=CC=CC=[N+]1C2=NC3=C(N2)C=CC=C3.CC(=O)[O-:21] 10=20;20,21=21
[H:20][O:21]C(=CC(=O)N(C)C)CC1=CC=CC=C1.[NH2-:10]>>[H:20][NH2:10].CN(C)C(=O)C=C(CC1=CC=CC=C1)[O-:21] 10=20;20,21=21
[H:20][O:21]C(=O)C=C.[OH-:10]>>[H:20][OH:10].C=CC(=O)[O-:21] 10=20;20,21=21
C1=C[C:20](=[CH:21][CH:22]=[C:23]1[N+](=O)[O-])I.[OH-:10]>>C1=C[C:20]([CH:21]=[CH:22][C-:23]1[N+](=O)[O-])([OH:10])I 10=20;22,23=23;20,21=21,22
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC(=C2)S(=O)(=O)O)Br.[Br-:10]>>[H:20][Br:10].C1=CC2=C(C=CC(=C2)S(=O)(=O)O)[C:21](=[CH:22]1)Br 10=20;20,21=21,22
[H:20][O:21]S(=O)(=O)O.CC[C:10](=[C:11](C)CC)C>>[H:20][C:10](C)(CC)[C+:11](C)CC.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21
[H:20][CH:21]1[C:22](=[O:23])CCC2(C1(C=CC(C2)(C)C)O)C.C[O-:10]>>[H:20][O:10]C.CC1(CC2(CC[C:22](=[CH:21]C2(C=C1)O)[O-:23])C)C 10=20;22,23=23;20,21=21,22
CCC1C[C+:20]=NC2=CC=CC=C12.CCN(CC)CC.[OH2:10]>>CCC1C[C:20](=NC2=CC=CC=C12)[OH2+:10].CCN(CC)CC 10=20
[H:20][C:21]12CC3=C([C+:22]1CC4=CC=CC=C24)C=CC=C3.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1C2=C(C=CC=C2)[C:22]3=[C:21]1C4=CC=CC=C4C3 10=20;20,21=21,22
C[Mg:20]Cl.[P:10](Cl)(Cl)Cl>>C[Mg-:20]([P+:10](Cl)(Cl)Cl)Cl 10=20,
[H:20][O:21]C.CC1C(=O)C2=C(C(=C(C=C2OC)OC)OC)OC1(CCC(C)C(C)OC)[O-:10]>>[H:20][O:10]C1(C(C(=O)C2=C(O1)C(=C(C=C2OC)OC)OC)C)CCC(C)C(C)OC.C[O-:21] 10=20;20,21=21
C1=C[CH:10]=[C:11](C=C1)OCCC[C+:20]=O>>C1C[C:20](=O)[CH:10]2C=CC=C[C+:11]2OC1 10,11=10,20
CC[O-:10].CC=C[CH2:20][Br:21]>>CC[O:10][CH2:20]C=CC.[Br-:21] 10=20;20,21=21
C[CH:20]([N:10](C)C)[I:21]>>C[CH:20]=[N+:10](C)C.[I-:21] 10=20;20,21=21
[H:20][C:21]1(C=CC=C[C+:22]1OC(=O)CC)C(C)C.[F-:10]>>[H:20][F:10].CCC(=O)O[C:22]1=[C:21](C=CC=C1)C(C)C 10=20;20,21=21,22
C[N:11]=[CH:10]SC>>C[N-:11][CH+:10]SC 10,11=11
[H:20][C:21]1=[N+](C(=C(S1)CCO)C)CC.C(CO)[N:10](CCO)CCO.CCO.CC(C)C(=O)C(=CC1=CC=CC=C1)C(=O)OC.C1=CC(=CC=C1C=O)F.[Br-]>>[H:20][N+:10](CCO)(CCO)CCO.CC[N+]1=[C-:21]SC(=C1C)CCO.CCO.CC(C)C(=O)C(=CC1=CC=CC=C1)C(=O)OC.C1=CC(=CC=C1C=O)F.[Br-] 10=20;20,21=21
[PH3:10]=[S:11]>>[PH3+:10][S-:11] 10,11=11
[H:20][C:21]1([CH:22]=[CH:23][C+:24](C(=C1)Br)OCC)Br.[Br-:10]>>[H:20][Br:10].CCO[C:24]1=[CH:23][CH:22]=[C:21](C=C1Br)Br 10=20;20,21=21,22;22,23=23,24
[B-:10]([O+:11](C)[Si](CC)(CC)CC)(F)(F)F>>[B:10](F)(F)F.CC[Si](CC)(CC)[O:11]C 10,11=11
C[C:20]([OH2+:21])([OH:10])S>>C[C:20](=[OH+:10])S.[OH2:21] 10=20;20,21=21
C#CCOC1=CC(=CC(=C1)[CH2:20][O:21][P+:22](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)OCC#C.[Br-:10].C(Br)(Br)Br>>C#CCOC1=CC(=CC(=C1)[CH2:20][Br:10])OCC#C.C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.C(Br)(Br)Br 10=20;20,21=21,22
[BH3-][P+](C)(C)[CH2-:10].[CH3:20][I:21]>>[BH3-][P+](C)(C)[CH2:10][CH3:20].[I-:21] 10=20;20,21=21
[H:20][O:21]C(CCCCC)CCCCC.[H:10][Na:11]>>CCCCCC(CCCCC)[O-:21].[H:10][H:20].[Na+:11] 10,11=10,20;20,21=21
[H:20][CH:21]1CCCC[C:22]1=[NH+:23]C2=CC=CC=C2.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.C1CC[C:22](=[CH:21]C1)[NH:23]C2=CC=CC=C2.O 10=20;22,23=23;20,21=21,22
[H:20][S:21]C1=NN=NN1C2=CC=CC=C2.CCOC(=O)N[N-:10]C(=O)OCC.CC(=CC1CC(=C)CC(O1)CCO[P+](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)Br>>[H:20][N:10](C(=O)OCC)NC(=O)OCC.C1=CC=C(C=C1)N2C(=NN=N2)[S-:21].CC(=CC1CC(=C)CC(O1)CCO[P+](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)Br 10=20;20,21=21
CC1CC(CCC(C1[O-:10])C(=O)OC)[C:20](=[O:21])OC>>CC1CC2CCC(C1[O:10][C:20]2([O-:21])OC)C(=O)OC 10=20;20,21=21
[H:20][I:21].CO[P:10](OC)I>>[H:20][P+:10](OC)(OC)I.[I-:21] 10=20;20,21=21
CC(C)[C+:20](C)C.[Br-:10]>>CC(C)[C:20](C)(C)[Br:10] 10=20,
CC1CCCC[C:20]1([N:10]2CCCC2)[OH2+:21]>>CC1CCCC[C:20]1=[N+:10]2CCCC2.[OH2:21] 10=20;20,21=21
